* PSpice Model Editor - Version 9.2

*$
* CA3046 NPN model
* created using Parts release 6.3a on 02/03/97 at 15:57
* Parts is a MicroSim product.
.MODEL CA3046 NPN
+ IS=10.000E-15
+ BF=145.76
+ VAF=100
+ IKF=46.747E-3
+ ISE=114.23E-15
+ NE=1.4830
+ BR=.1001
+ VAR=100
+ IKR=10.010E-3
+ ISC=10.000E-15
+ RC=10
+ CJE=1.0260E-12
+ MJE=.33333
+ CJC=991.79E-15
+ MJC=.33333
+ TF=277.09E-12
+ XTF=309.38
+ VTF=16.364
+ ITF=1.7597
+ TR=10.000E-9
*$
*$
*78L05 MCE 7-12-95
*78L05 circuit taken from Signetics 1977 Analog Data Book page 160
*5V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L05 1 2 3
Q1 5 5 1 QPNP
Q2 10 5 1 QPNP
Q3 1 11 12 QNPN
Q4 1 10 11 QNPN
Q5 10 13 14 QNPN
Q6 1 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ5V
Q14 2 8 7 QPNP
R17 2 17 4E3
R16 4 1 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 2.2E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 4.5E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ5V D(IS=1E-11 RS=7.708 N=1.27 TT=5E-8 CJO=4.068E-10 VJ=0.75
+ M=0.33 BV=4.946 IBV=0.01 )
.ENDS 78L05



*$
* A-G-K: 1-2-3
.SUBCKT 2N6394 10 30 20 
* 10--A, 30--G, 20--K
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.001)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=3.759e-002 BV=6.000e+001)
.MODEL DBREAK D (IS=1.000e-012 N=8.574e+001 BV=6.000e+001)
V1 10 14 DC 0
DON1 14 222 DON
VV 222 22 DC 0
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 5.000e+006
CRISE 14 20 1.200e-010
FC1 3 20 poly(2) VGD  V1 -5.000e-003 1 8.333e-001
CON 3 20 5.000e-009 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DGATE 30 7 DGAT
VGD 7 20 DC 1.216e-001
.ENDS
*$
* A-K: 1-2
.MODEL 1N4733A D IS= 5.038e-012 RS= 0.001 CJO= 1e-012 VJ= 0.75
+                TT= 5e-009 M= 0.3333 BV= 5.111 IBV= 0.07542 N= 1
+                EG= 1.11 XTI= 3 KF= 0 AF= 1 FC= 0.5
+                TNOM= 27
*$
*A-K: 1-2
.MODEL D1N4001GP D (
+   IS =  6.698e-07
+   RS =  0.04255
+   CJO =  1.949e-11
+   VJ =  0.3905
+   TT =  4.933e-06
+   M =  0.3576
+   BV =  50
+   N =  2.412
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.005177
+   TNOM =  27
+ )
*$
* CD4007 pMOS
.model CD4007P    PMOS (Level=1 Gamma= 0 Xj=0
+		Tox=1200n Phi=.6 Rs=0 Kp=55u Vto=-1.5 Lambda=0.04
+		Rd=0 Cbd=4.0p Cbs=4.0p Pb=.8 Cgso=0.2p
+		Cgdo=0.2p Is=16.64p N=1)
*The default W and L is 60 and 10 um respectively and AD and AS
*should not be included.
*$
* CD4007 nMOS
.model CD4007N    NMOS (Level=1 Gamma= 0 Xj=0
+		Tox=1200n Phi=.6 Rs=0 Kp=111u Vto=2.0 Lambda=0.01
+		Rd=0 Cbd=2.0p Cbs=2.0p Pb=.8 Cgso=0.1p
+		Cgdo=0.1p Is=16.64p N=1)
*The default W and L is 30 and 10 um respectively and AD and AS
*should not be included.
*$
